US08247429B2
methyl 6-(dibenzylamino)-3-(3-methoxy-3-oxopropyl)pyridine-2-carboxylate
To a solution of methyl 6-(dibenzylamino)-3-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]pyridine-2-carboxylate (2.60 g, 6.24 mmol) and nickel(II) chloride hexahydrate (891 mg, 3.75 mmol) in methanol (62 mL) was added sodium tetrahydroborate (472 mg, 12.5 mmol) under ice-cooling, and the mixture was stirred for 5 min. The reaction solution was diluted with saturated aqueous ammonium chloride solution, and the organic solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→30/70) to give the title compound (2.24 g, yield 86%).

reactant | methyl 6-(dibenzylamino)-3-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]pyridine-2-carboxylate | 6.24 mmol, 2.60 g | C(C1=CC=CC=C1)N(C1=CC=C(C(=N1)C(=O)OC)\C=C\C(=O)OC)CC1=CC=CC=C1 | C25H24N2O4
reactant | sodium tetrahydroborate | 12.5 mmol, 472 mg | [BH4-].[Na+]
solvent | methanol | 62 mL | CO | CH4O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | nickel(II) chloride hexahydrate | 3.75 mmol, 891 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | methyl 6-(dibenzylamino)-3-(3-methoxy-3-oxopropyl)pyridine-2-carboxylate | 2.24 g, yield 86% | C(C1=CC=CC=C1)N(C1=CC=C(C(=N1)C(=O)OC)CCC(=O)OC)CC1=CC=CC=C1 | C25H26N2O4
